US08097622B2
N′-[2-(2-Aminopyrimidin-5-yl)-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-8-yl]-N,N-dimethylethane-1,2-diamine
N,N-Dimethylethylenediamine (113 mg, 1.3 mmol) and dimethyl sulfoxide (1 ml) were added to 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine (100 mg, 0.26 mmol) and the resulting mixture was stirred at 150° C. for 4 hours. The reaction mixture was purified by preparative HPLC (column, NOMURA Develosil Combi-RP-5; mobile phase, acetonitrile/water/formic acid) to give the title compound (85 mg, 68%) as a pale yellow solid.

reactant | N,N-Dimethylethylenediamine | 1.3 mmol, 113 mg | CN(CCN)C | C4H12N2
reactant | 5-[8-chloro-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-2-yl]pyrimidin-2-amine | 0.26 mmol, 100 mg | ClC=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC1CC1 | C17H19ClN8O
solvent | dimethyl sulfoxide | 1 ml | CS(=O)C | C2H6OS
product | N′-[2-(2-Aminopyrimidin-5-yl)-9-(cyclopropylmethyl)-6-morpholin-4-yl-9H-purin-8-yl]-N,N-dimethylethane-1,2-diamine | 85 mg, 68% | NC1=NC=C(C=N1)C1=NC(=C2N=C(N(C2=N1)CC1CC1)NCCN(C)C)N1CCOCC1 | C21H30N10O
